US07001897B2
To a solution of p-nitrobenzyl (1R,5S,6S)-2-[1-(4-carboxy-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate (1.00 g, 1.48 mmol) (obtained as described in Reference Example 41(7)) and L-valinamide hydrochloride (272 mg, 1.78 mmol) obtained as described in Reference Example 47(2) in dimethylformamide (50 ml) were added diethylphosphoryl cyanide (275 μl, 1.78 mmol) and diisopropylethylamine (620 μl, 3.56 mmol) in an ice bath under an atmosphere of nitrogen. The mixture was stirred at room temperature for 2.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:3)→methylene chloride:ethyl acetate (3:1) as the eluant to afford p-nitrobenzyl (1R,5S,6S)-2-{1-[4-((1S)-1-carbamoyl-2-methylpropylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate (934 mg, yield 82%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-[1-(4-carboxy-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 1.48 mmol, 1.00 g | C(=O)(O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C30H38N4O8S2Si
reactant | L-valinamide hydrochloride | 1.78 mmol, 272 mg | Cl.N[C@@H](C(C)C)C(=O)N
reactant | diethylphosphoryl cyanide | 1.78 mmol, 275 μl | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | diisopropylethylamine | 3.56 mmol, 620 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl (1R,5S,6S)-2-{1-[4-((1S)-1-carbamoyl-2-methylpropylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 934 mg, yield 82% | C(N)(=O)[C@H](C(C)C)NC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C35H48N6O8S2Si
